US07271262B2
275C. (4-Amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(3-amino-2-methyl-phenyl)methanone
The title compound was prepared from (4-Chloro-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(2-methyl-3-nitro-phenyl)-methanone by procedures analogous to those described for the preparation of (4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(3-amino-phenyl)methanone. MS: 310.1 (MH+); HPLC Rf: 1.3 min. (HPLC method 2); HPLC purity: 100%.

reactant | (4-Chloro-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(2-methyl-3-nitro-phenyl)-methanone | ClC=1C2=C(N=CN1)N(C=C2C(=O)C2=C(C(=CC=C2)[N+](=O)[O-])C)C(C)C | C17H15ClN4O3
reactant | (4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(3-amino-phenyl)methanone | NC=1C2=C(N=CN1)N(C=C2C(=O)C2=CC(=CC=C2)N)C2CCCC2 | C18H19N5O
product | (4-Amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(3-amino-2-methyl-phenyl)methanone | NC=1C2=C(N=CN1)N(C=C2C(=O)C2=C(C(=CC=C2)N)C)C(C)C | C17H19N5O
